US05326760
(a) 2-(R)-[1-(S)-(Benzylamino)carbonyl-3-methyl-butylamino]-4-(5-bromo-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-butanoic acid-1,1-dimethylethyl ester
325 mg of 2-(R)-[1-(S)-(benzylamino)carbonyl-3-methyl-butylamino]-4-hydroxy-butanoic acid-1,1-dimethylethyl ester, prepared as described for Example N, was added to 10 mL DMF, followed by 226 mg 5-bromo-1,3-dihydro-1,3-dioxo-2H-isoindole. 231 mg of triphenylphosphine was added and the mixture was cooled to 0° C. 0.14 mL diethyl azodicarboxylate was added and the mixture was warmed to RT with stirring for 16 h. The solvents were removed by evaporation and the resulting residue was purified by reverse phase H.P.L.C. to give the title compound; 53 mg.

reactant | 2-(R)-[1-(S)-(benzylamino)carbonyl-3-methyl-butylamino]-4-hydroxy-butanoic acid-1,1-dimethylethyl ester | 325 mg | CC(C)(C)OC([C@@H](CCO)N[C@@H](CC(C)C)C(=O)NCC1=CC=CC=C1)=O | C21H34N2O4
reactant | 5-bromo-1,3-dihydro-1,3-dioxo-2H-isoindole | 226 mg | BrC=1C=C2C(NC(C2=CC1)=O)=O | C8H4BrNO2
reactant | triphenylphosphine | 231 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.14 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-(R)-[1-(S)-(Benzylamino)carbonyl-3-methyl-butylamino]-4-(5-bromo-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-butanoic acid-1,1-dimethylethyl ester | CC(C)(C)OC([C@@H](CCN1C(C2=CC=C(C=C2C1=O)Br)=O)N[C@@H](CC(C)C)C(=O)NCC1=CC=CC=C1)=O | C29H36BrN3O5
